US07018988B2
(2S,4EZ)-4-(tert-butoxyimino)-N2-(2-methoxyethyl)-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid, 1-isocyanato-3-methoxybenzene, and 2-methoxyethylamine the title compound was obtained in 76% purity by LC/MS. MS(ESI+): m/z=407.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC(C)(C)C)C(=O)O | C14H24N2O5
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | (2S,4EZ)-4-(tert-butoxyimino)-N2-(2-methoxyethyl)-N1-(3-methoxyphenyl)-1,2-pyrrolidinedicarboxamide | C(C)(C)(C)ON=C1C[C@H](N(C1)C(=O)NC1=CC(=CC=C1)OC)C(=O)NCCOC | C20H30N4O5
